US08048899B2
To a solution of 4.62 g (21 mmol) of 2-(azetidine-1-sulfinyl)-2-methyl-propionic acid ethyl ester in DCM (100 mL) at room temperature are added 5.46 g (32 mmol) of meta-chloroperbenzoic acid. The reaction is stirred for 1 h before Ambersep 900-OH resin (2.9 g) is introduced. The suspension is shaken for 2 h and then filtered. The filtrate is concentrated under reduced pressure. The residue is dissolved in DCM (50 mL) and washed with a saturated aqueous NaHCO3 solution (50 mL). The organic layer is dried (Na2SO4) and filtered. The solvent is removed under reduced pressure to provide 5 g of 2-(azetidine-1-sulfonyl)-2-methyl-propionic acid ethyl ester as an orange oil, which is used in the next step without further purification. Yield 100%, ES-MS: m/z 236 [M+H].

reactant | 2-(azetidine-1-sulfinyl)-2-methyl-propionic acid ethyl ester | 21 mmol, 4.62 g | C(C)OC(C(C)(C)S(=O)N1CCC1)=O | C9H17NO3S
reactant | meta-chloroperbenzoic acid | 32 mmol, 5.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(azetidine-1-sulfonyl)-2-methyl-propionic acid ethyl ester | 5 g, Yield 100% | C(C)OC(C(C)(C)S(=O)(=O)N1CCC1)=O | C9H17NO4S
